US04950759
N-(1-azabicyclo[2,2,2]oct-3-yl)-6,7,8,9-tetrahydropyrazolo[4,5,1-jk][1]benzazepine-2-carboxamide hydrochloride
0.75 g (3.5 mmol) of 6,7,8,9-tetrahydro-pyrazolo[4,5,1-jk][1]benzazepine-2-carboxylic acid were boiled for 3 hours in 12 ml of thionyl chloride. Access of thionyl chloride was then removed by distillation under reduced pressure. 10 ml of toluene were added, and distillation under reduced pressure was repeated. The residue was dissolved in 10 ml of acetonitrile, and 0.83 g (6.6 mmol) of 3-amino-quinuclidine were added. The mixture was stirred for 18 hours at 20° C., then shaken with 2N sodium hydroxide and with methylene chloride. The methylene chloride layer was washed with water, dried and evaporated. The residue was dissolved in a mixture of 5 ml of absolute alcohol and 5 ml of ethyl acetate. The reaction mixture of 0.65 ml of acetyl chloride with 2 ml of absolute alcohol was added to the obtained solution and kept at 0° C. for 18 hours. The solid was then sucked off, washed with ethyl acetate and dried. In this manner 1.12 g of the desired product was obtained. The product decomposed slowly at 280° C. 13C NMR (CDCl3, ref: TMS)

reactant | 6,7,8,9-tetrahydro-pyrazolo[4,5,1-jk][1]benzazepine-2-carboxylic acid | 3.5 mmol, 0.75 g | C1N(N2C=CCCC3=C2C1=CCC3)C(=O)O | C12H14N2O2
reactant | 3-amino-quinuclidine | 6.6 mmol, 0.83 g | NC1CN2CCC1CC2 | C7H14N2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | thionyl chloride | 12 ml | S(=O)(Cl)Cl | Cl2OS
product | N-(1-azabicyclo[2,2,2]oct-3-yl)-6,7,8,9-tetrahydropyrazolo[4,5,1-jk][1]benzazepine-2-carboxamide hydrochloride | 1.12 g | Cl.N12CC(C(CC1)CC2)NC(=O)N2CC1=CCCC=3CCC=CN2C31 | InChI=1S/C19H26N4O.ClH/c24-19(20-17-13-21-10-7-14(17)8-11-21)23-12-16-6-3-5-15-4-1-2-9-22(23)18(15)16;/h2,6,9,14,17H,1,3-5,7-8,10-13H2,(H,20,24);1H
